US08445509B2
Production of 2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid
To a solution of ethyl 2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (1.6 g, 5.9 mmol) in tetrahydrofuran (6 mL)/methanol (5 mL) was added 4N aqueous sodium hydroxide solution (9 mL), and the mixture was stirred at 60° C. for 1 hr. Tetrahydrofuran and methanol were evaporated under reduced pressure. 6N Aqueous hydrochloric acid solution was added to the residue with stirring, and the precipitated solid was collected by filtration. The filtrate was washed with water and ethyl acetate/hexane (1/5), and dried under reduced pressure to give the title compound (1.1 g, 79%) as a white solid.

reactant | ethyl 2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 5.9 mmol, 1.6 g | FC1=CC=C(C=C1)N1N(C=C(C1=O)C(=O)OCC)C | C13H13FN2O3
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium hydroxide | 4N, 9 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.1 g, 79% | FC1=CC=C(C=C1)N1N(C=C(C1=O)C(=O)O)C | C11H9FN2O3
